US08168794B2
To a solution of tert-butyl 6-hydroxy-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (1.0 equiv.) and triethyl amine (1.5 equiv.) in CH2Cl2 (0.2 M) was added methanesulfonyl chloride (1.2 equiv.) at 0° C. The mixture was stirred for 2 hours at that temperature. The reaction mixture was diluted with ethyl acetate, and washed with sat NaCl. The organic was dried with MgSO4, filtered and concentrated to give 2-(tert-butoxycarbonylamino)-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate (85%), which was used in the next step without further purification. LC/MS (m/z): MH+=414.0, Rt=0.82

reactant | tert-butyl 6-hydroxy-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 1.0 equiv. | OC1CCC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-] | C16H21N3O5
reactant | triethyl amine | 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 0.2 M | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butoxycarbonylamino)-4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate | 85% | CS(=O)(=O)OC1C(C=C(CC1)C1=C(C=NC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C | C17H23N3O7S
